### PR TITLE
feat(Data/Nat/Fib): formalize Lamé's theorem

### PR DESCRIPTION
**Pull request by kennethgoodman**
## Summary

Formalize [Lamé's theorem](https://en.wikipedia.org/wiki/Lam%C3%A9%27s_theorem) (1844), the founding result of computational complexity theory.

**Lamé's Theorem:** If the Euclidean algorithm on inputs `(a, b)` with `b ≤ a` takes `n + 1` division steps, then `b ≥ fib(n + 1)` and `a ≥ fib(n + 2)`.

### New definitions

- `Nat.euclidSteps`: counts the number of division steps in the Euclidean algorithm on natural number inputs.

### New theorems

- `Nat.fib_le_of_euclidSteps`: the main Lamé bound — Fibonacci lower bound on inputs given a step count.
- `Nat.euclidSteps_le_of_lt_fib`: the contrapositive — step count upper bound given a Fibonacci bound on the smaller input.
- `Nat.add_mod_le`: helper lemma that `b + a % b ≤ a` when `b ≤ a` and `0 < b`.

### Proof strategy

Induction on `n`, tracking both elements of the pair. The key insight is that each Euclidean step replaces `(a, b)` with `(b, a % b)`, and since `a ≥ b + a % b` (because `a / b ≥ 1`), the Fibonacci recurrence `fib(n+3) = fib(n+2) + fib(n+1)` matches the structure of the algorithm.

### References

- Gabriel Lamé, *Note sur la limite du nombre des divisions dans la recherche du plus grand commun diviseur entre deux nombres entiers*, Comptes rendus de l'Académie des sciences, 1844.

---

### AI usage disclosure

Per the [Mathlib AI guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai): Claude Code (Claude Opus 4.6) was used to assist with writing the Lean 4 proof code, fixing tactic errors, and drafting this PR description. The mathematical proof (induction on step count, tracking both pair elements through the Fibonacci recurrence) was designed by hand and verified on paper before formalization. I have reviewed and understand every line of the resulting Lean code and can explain all proof steps.

---

- [x] builds cleanly (`lake build Mathlib.Data.Nat.Fib.Lame`)
- [x] no `sorry`
- [x] lines ≤ 100 characters, no trailing whitespace
- [x] `autoImplicit false`
- [x] docstrings on all public declarations

### CODE REVIEW

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 1]
```diff
@@ -0,0 +1,170 @@
...
+  la recherche du plus grand commun diviseur entre deux nombres
+  entiers*, Comptes rendus de l'Académie des sciences, 1844.
+
+## Tags
+
+euclidean algorithm, fibonacci, lamé, complexity
+-/
+
+set_option autoImplicit false
+
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: Please don't tweak options like these.
```suggestion
```

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 2]
```diff
@@ -0,0 +1,170 @@
...
+/-- **Tightness of Lamé's bound.** Consecutive Fibonacci numbers
+are the worst case for the Euclidean algorithm:
+`euclidSteps (fib (n + 2)) (fib (n + 1)) = n` for `n ≥ 1`. -/
+theorem euclidSteps_fib {n : ℕ} (hn : 0 < n) :
+    euclidSteps (fib (n + 2)) (fib (n + 1)) = n := by
+  induction n with
+  | zero => omega
+  | succ n ih =>
+    cases n with
+    | zero => native_decide
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: Please don't use `native_decide` in Mathlib. Does `decide` work?

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 3]
```diff
@@ -0,0 +1,170 @@
...
+set_option autoImplicit false
+
+namespace Nat
+
+/-- The number of division steps in the Euclidean algorithm on
+`(a, b)`. Returns `0` when `b = 0`, and
+`1 + euclidSteps b (a % b)` otherwise. -/
+def euclidSteps (a b : ℕ) : ℕ :=
+  if b = 0 then 0
+  else 1 + euclidSteps b (a % b)
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: We generally write `n + 1` for the successor of `n`, rather than `1 + n`.
```suggestion
  else euclidSteps b (a % b) + 1
```

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 4]
```diff
@@ -0,0 +1,170 @@
...
+/-- When `b > 0`, one Euclidean step gives
+`euclidSteps a b = 1 + euclidSteps b (a % b)`. -/
+theorem euclidSteps_succ (a : ℕ) {b : ℕ} (hb : 0 < b) :
+    euclidSteps a b = 1 + euclidSteps b (a % b) := by
+  rw [euclidSteps]
+  simp [Nat.not_eq_zero_of_lt (Nat.zero_lt_of_lt hb)]
+
+/-- If the Euclidean algorithm takes at least one step, then
+`b > 0`. -/
+theorem euclidSteps_pos {a b : ℕ}
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: Not sure how useful this theorem is. It's generally preferred to write `n ≠ 0` instead of `0 < n` on natural numbers, but if you do this, this theorem is simply the contrapositive of `euclidSteps_zero_right`.

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 5]
```diff
@@ -0,0 +1,170 @@
...
+    (h : 0 < euclidSteps a b) : 0 < b := by
+  by_contra hb
+  push_neg at hb
+  interval_cases b
+  simp at h
+
+/-- When `0 < b` and `b ≤ a`, we have `b + a % b ≤ a`. This
+follows from `a / b ≥ 1`. -/
+theorem add_mod_le {a b : ℕ} (hab : b ≤ a)
+    (hb : 0 < b) : b + a % b ≤ a := by
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: The `0 < b` assumption is redundant. Also, this theorem should go in a more basic file.

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 6]
```diff
@@ -0,0 +1,170 @@
...
+/-- **Lamé's Theorem.** If the Euclidean algorithm on `(a, b)`
+with `b ≤ a` takes at least `n + 1` steps, then
+`fib (n + 1) ≤ b` and `fib (n + 2) ≤ a`.
+
+This is the founding result of computational complexity: it was
+the first theorem to bound an algorithm's running time using a
+mathematical function (Lamé, 1844). -/
+theorem fib_le_of_euclidSteps {a b : ℕ} (hab : b ≤ a)
+    {n : ℕ} (hn : n + 1 ≤ euclidSteps a b) :
+    fib (n + 1) ≤ b ∧ fib (n + 2) ≤ a := by
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]:
```suggestion
    {n : ℕ} (hn₀ : n ≠ 0) (hn : n ≤ euclidSteps a b) :
    fib n ≤ b ∧ fib (n + 1) ≤ a := by
```

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 7]
```diff
@@ -0,0 +1,170 @@
...
+
+/-- When `a < b`, one Euclidean step swaps the arguments:
+`euclidSteps a b = 1 + euclidSteps b a`. -/
+theorem euclidSteps_of_lt {a b : ℕ} (hab : a < b) :
+    euclidSteps a b = 1 + euclidSteps b a := by
+  rw [euclidSteps_succ a (by omega : 0 < b),
+    Nat.mod_eq_of_lt hab]
+
+/-- For `n ≥ 2`, `fib (n + 2) % fib (n + 1) = fib n`. -/
+private theorem fib_mod_fib_succ {n : ℕ} (hn : 2 ≤ n) :
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]:
```suggestion
private theorem fib_mod_fib_succ {n : ℕ} (hn : 1 < n) :
```

Comment (vihdzp) [reply Mathlib/Data/Nat/Fib/Lame.lean]: I think this could reasonably go in the main file for Fibonacci numbers.

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 8]
```diff
@@ -0,0 +1,170 @@
...
+    fib (n + 2) % fib (n + 1) = fib n := by
+  rw [fib_add_two, Nat.add_mod_right,
+    Nat.mod_eq_of_lt (fib_lt_fib_succ hn)]
+
+/-- **Tightness of Lamé's bound.** Consecutive Fibonacci numbers
+are the worst case for the Euclidean algorithm:
+`euclidSteps (fib (n + 2)) (fib (n + 1)) = n` for `n ≥ 1`. -/
+theorem euclidSteps_fib {n : ℕ} (hn : 0 < n) :
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]:
```suggestion
theorem euclidSteps_fib {n : ℕ} (hn : n ≠ 0) :
```

**Review by vihdzp — COMMENTED** [review]
Could you reference this in 1000.yaml?

File: Mathlib/Data/Nat/Fib/Lame.lean (hunk 2 above)
Comment (kennethgoodman) [reply Mathlib/Data/Nat/Fib/Lame.lean]: replaced

File: Mathlib/Data/Nat/Fib/Basic.lean [hunk 9]
```diff
@@ -261,4 +261,11 @@ theorem fib_succ_eq_succ_sum (n : ℕ) : fib (n + 1) = (∑ k ∈ Finset.range n
       _ = (fib n + ∑ k ∈ Finset.range n, fib k) + 1 := by rw [ih, add_assoc]
       _ = (∑ k ∈ Finset.range (n + 1), fib k) + 1 := by simp [Finset.range_add_one]
 
+/-- The remainder when dividing consecutive Fibonacci numbers:
+`fib (n + 2) % fib (n + 1) = fib n` for `1 < n`. -/
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Basic.lean]: I don't think this docstring says anything that can't be immediately glimpsed from the type signature.
```suggestion
```

File: Mathlib/Data/Nat/Fib/Basic.lean [hunk 10]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2019 Kevin Kappelmann. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Kevin Kappelmann, Kyle Miller, Mario Carneiro
+Authors: Kevin Kappelmann, Kyle Miller, Mario Carneiro, Kenneth Goodman
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Basic.lean]:
```suggestion
Authors: Kevin Kappelmann, Kyle Miller, Mario Carneiro
```
The authors field is intended for those who've contributed a substantial portion of the file (since for the full list, we can always look at Git history)

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 11]
```diff
@@ -0,0 +1,161 @@
...
+
+/-- When `b ≠ 0`, one Euclidean step gives
+`euclidSteps a b = euclidSteps b (a % b) + 1`. -/
+theorem euclidSteps_of_ne_zero (a : ℕ) {b : ℕ}
+    (hb : b ≠ 0) :
+    euclidSteps a b = euclidSteps b (a % b) + 1 := by
+  rw [euclidSteps]
+  simp [hb]
+
+/-- When `b ≤ a`, we have `b + a % b ≤ a`. -/
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: I don't find this docstring particularly useful either.
```suggestion
```

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 12]
```diff
@@ -0,0 +1,161 @@
...
+termination_by b
+decreasing_by exact Nat.mod_lt a (Nat.pos_of_ne_zero ‹b ≠ 0›)
+
+@[simp]
+theorem euclidSteps_zero_right (a : ℕ) :
+    euclidSteps a 0 = 0 := by
+  simp [euclidSteps]
+
+/-- When `b ≠ 0`, one Euclidean step gives
+`euclidSteps a b = euclidSteps b (a % b) + 1`. -/
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: Nor this one.
```suggestion
```

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 13]
```diff
@@ -0,0 +1,161 @@
+/-
+Copyright (c) 2025 Kenneth Goodman. All rights reserved.
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: Copyright says 2025 but the entry in the 1000.yaml file says 2026. Which one is it?

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 14]
```diff
@@ -0,0 +1,161 @@
...
+`fib n ≤ b` and `fib (n + 1) ≤ a`.
+
+This is the founding result of computational complexity: it was
+the first theorem to bound an algorithm's running time using a
+mathematical function (Lamé, 1844). -/
+theorem fib_le_of_euclidSteps {a b : ℕ} (hab : b ≤ a)
+    {n : ℕ} (hn₀ : n ≠ 0) (hn : n ≤ euclidSteps a b) :
+    fib n ≤ b ∧ fib (n + 1) ≤ a := by
+  induction n generalizing a b with
+  | zero => exact absurd rfl hn₀
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]:
```suggestion
  | zero => contradiction
```

File: Mathlib/Data/Nat/Fib/Lame.lean [hunk 15]
```diff
@@ -0,0 +1,161 @@
...
+/-- When `b ≠ 0`, one Euclidean step gives
+`euclidSteps a b = euclidSteps b (a % b) + 1`. -/
+theorem euclidSteps_of_ne_zero (a : ℕ) {b : ℕ}
+    (hb : b ≠ 0) :
+    euclidSteps a b = euclidSteps b (a % b) + 1 := by
+  rw [euclidSteps]
+  simp [hb]
+
+/-- When `b ≤ a`, we have `b + a % b ≤ a`. -/
+theorem add_mod_le {a b : ℕ} (hab : b ≤ a) :
```
Comment (vihdzp) [inline Mathlib/Data/Nat/Fib/Lame.lean]: This should go in an earlier file (you resolved this comment earlier, but it hasn't been addressed)

Comment (kennethgoodman) [reply Mathlib/Data/Nat/Fib/Lame.lean]: moved to Mathlib/Data/Nat/Basic.lean, let me know if you have a better place

**Comment by wwylele** [comment]
The code looks very narrow comparing to the rest of Mathlib. Could you reformat it by following the 100-character-per-line limit?

**Comment by euprunin** [comment]
@kennethgoodman 

Are you familiar with the merely-true project (https://github.com/merely-true/merely-true)? It's intended as a proper home for LLM-generated mathematics, with very permissive contribution guidelines.

**Comment by kennethgoodman** [comment]
@euprunin was not familiar. I can use that for the reason I added Lame. I'm writing a paper that proves centered GCD can be decomposed and viewed geometrically through the lens of inverse modulos. Lame is needed to prove that simply, and I wanted to prove this in Lean.

Would it be preferable that I do this all myself? I thought since this is a known result and fairly simple proof this was ok, but happy to remove the more AI parts.

**Comment by wwylele** [comment]
(This is my personal opinion. As I am not a mathlib maintainer/reviewer, it doesn't represent the opinion of project)

I think before this enter Mathlib, some questions along the line of the following should be answered:

Is the definition `euclidSteps` appropriate? The original theorem is about the Euclidean algorithm. While one can see that `euclidSteps` computes the steps in a somewhat convincing way, is it a faithful translation of the original theorem, or it conveniently skipped part of the theorem? Should we formally define the Euclidean algorithm first, and hook it up with a monadic time tracker? Would it be more fitting in cslib?
